US06538016B2
A mixture of {4-[2-(4-fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-acetonitrile (14.8 g), liquid ammonia (8.4 g) and Raney-nickel (4.5 g) in tetrahydrofuran (120 ml) is shaken in an autoclave under hydrogen (130 bar) at +60° C. for 2 hours. The reaction mixture is filtered and evaporated. 2-{4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine is obtained as an oil.

reactant | {4-[2-(4-fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-acetonitrile | 14.8 g | FC1=CC=C(OCCOC2=C(C=C(C=C2)CC#N)OC)C=C1 | C17H16FNO3
reactant | ammonia | 8.4 g | N | H3N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | Raney-nickel | 4.5 g | [Ni] | Ni
product | 2-{4-[2-(4-Fluoro-phenoxy)-ethoxy]-3-methoxy-phenyl}-ethylamine | FC1=CC=C(OCCOC2=C(C=C(C=C2)CCN)OC)C=C1 | C17H20FNO3
